US07989438B2
Step 6: (7R)-7-[(2-{3-[(aminosulfonyl)(methyl)amino]pyrrolidin-1-yl}ethyl)(methyl)amino]-14-cyclohexyl-7,8-dihydro-6H-indolo[1,2-e][1,5]benzoxazocine-11-carboxylic acid
A solution of (7R)-7-[(2-{3-[{[(tert-butoxycarbonyl)amino]sulfonyl}(methyl)amino]pyrrolidin-1-yl}ethyl)(methyl)amino]-14-cyclohexyl-7,8-dihydro-6H-indolo[1,2-e][1,5]benzoxazocine-11-carboxylic acid in DCM was treated with TFA and the solution was left stirring for 1 h. All volatiles were removed in vacuo to leave the product as pale yellow foam. (ES+) m/z 610 (M+H)+.

reactant | (7R)-7-[(2-{3-[{[(tert-butoxycarbonyl)amino]sulfonyl}(methyl)amino]pyrrolidin-1-yl}ethyl)(methyl)amino]-14-cyclohexyl-7,8-dihydro-6H-indolo[1,2-e][1,5]benzoxazocine-11-carboxylic acid | C(C)(C)(C)OC(=O)NS(=O)(=O)N(C1CN(CC1)CCN([C@H]1COC2=C(C=3N(C1)C=1C=C(C=CC1C3C3CCCCC3)C(=O)O)C=CC=C2)C)C | C37H51N5O7S
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | C(Cl)Cl | CH2Cl2
product | (7R)-7-[(2-{3-[(aminosulfonyl)(methyl)amino]pyrrolidin-1-yl}ethyl)(methyl)amino]-14-cyclohexyl-7,8-dihydro-6H-indolo[1,2-e][1,5]benzoxazocine-11-carboxylic acid | NS(=O)(=O)N(C1CN(CC1)CCN([C@H]1COC2=C(C=3N(C1)C=1C=C(C=CC1C3C3CCCCC3)C(=O)O)C=CC=C2)C)C | C32H43N5O5S
